US09079889B2
To a solution of methyl 3-amino-6-(2,6-difluorophenyl)picolinate (1.0 equiv) in THF (0.5 M), was added 1M LiOH (4.0 equiv). After stirring for 4 hours at 60° C., 1N HCl (4.0 equiv.) was added and the THF was removed in vacuo. The resulting solid was filtered and rinsed with cold H2O (3×20 mL) to yield 3-amino-6-(2,6-difluorophenyl)picolinic acid (90%). LCMS (m/z): 251.1 (MH+); LC Rt=2.1 min.

reactant | methyl 3-amino-6-(2,6-difluorophenyl)picolinate | 1.0 equiv | NC=1C(=NC(=CC1)C1=C(C=CC=C1F)F)C(=O)OC | C13H10F2N2O2
reactant | LiOH | 1M, 4.0 equiv | [Li+].[OH-]
reactant | HCl | 1N, 4.0 equiv. | Cl | ClH
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | 3-amino-6-(2,6-difluorophenyl)picolinic acid | 90% | NC=1C(=NC(=CC1)C1=C(C=CC=C1F)F)C(=O)O | C12H8F2N2O2
